Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dizziness, melena
 
Major Surgical or Invasive Procedure:
EGD (___)

 
History of Present Illness:
Mr. ___ is a ___ year-old male is with a past medical history of
hypertension who came in to the ED via ambulance for low blood
pressure, dizziness, and two days of melena. 

Patient reports that he was in his usual state of health until
this morning. At the elementary school where he was working, he
felt dizzy and that he was about to faint. He sat down and was
given some water. School nurse checked his Blood pressure which
showed 90/60 and an ambulance was called. Patient got IV fluids
and his symptoms improved. 

Patient reports having dark tarry stool yesterday and this
morning. He was worried and took a photo of his stool. Patient
reports having a colonoscopy ___ years ago, which was normal.
Patient denies hematemesis, hematochezia, abdominal pain, or
shortness of breath. 

In the ED, initial vitals were: T.96.3 HR 68, BP 116/78, SaO2
98%. Physical Exam was notable for pale appearance, with a 
benign
abdominal exam. His labs were notable for a Hb 8.7 and PLT 136.
Guaiac was positive. The patient was given 2L of LR and
pantoprazole 40mg IV. GI was consulted and recommended Trending
Hb and EGD, timing TBD.

On arrival to the floor, patient confirmed the history above and
has no new complaints.

 
Past Medical History:
HTN
 
Social History:
___
Family History:
Sister- Stomach Cancer at ___
Father- Stomach Cancer at ___
Mother- Cardiac Disease in ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: T 98.5 BP 108/69 HR 71 O2sat 92%
GENERAL: Lying comfortably in bed. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to
palpation. No organomegaly.
EXTREMITIES: No clubbing, cyanosis. 1+ edema on ___ bilaterally.
Pulses DP/Radial 2+ bilaterally.
SKIN: Warm. Cap refill <2
NEUROLOGIC: AOx3.  Moving all 4 limbs spontaneously.

DISCHARGE EXAM:
==============
VS: ___ 1149 Temp: 98.0 PO BP: 117/79 HR: 74 RR: 20 O2 sat:
95% O2 delivery: RA 
GENERAL: Sitting up on side of the bed. In no acute distress.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Positive bowel sounds, non distended, non-tender to
palpation.
EXTREMITIES: Warm, no edema b/l. 

 
Pertinent Results:
ADMISSION LABS:
===============

___ 03:00PM BLOOD WBC-10.9* RBC-2.74* Hgb-8.7* Hct-26.1* 
MCV-95 MCH-31.8 MCHC-33.3 RDW-13.1 RDWSD-44.9 Plt ___
___ 03:00PM BLOOD Neuts-87.7* Lymphs-8.3* Monos-3.2* 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-9.56* AbsLymp-0.90* 
AbsMono-0.35 AbsEos-0.01* AbsBaso-0.02
___ 03:00PM BLOOD ___ PTT-24.0* ___
___ 03:00PM BLOOD Glucose-103* UreaN-29* Creat-0.6 Na-137 
K-4.1 Cl-105 HCO3-22 AnGap-10
___ 03:00PM BLOOD Albumin-3.7

PERTINENT INTERVAL LABS
========================
HELICOBACTER PYLORI AG, EIA,  SEE NOTE  A         
STOOL                                             
 
  HELICOBACTER PYLORI AG, EIA, STOOL 
  
  MICRO NUMBER:      ___
  TEST STATUS:       FINAL
  SPECIMEN SOURCE:   STOOL
  SPECIMEN QUALITY:  ADEQUATE
  RESULT:            Detected
THIS TEST WAS PERFORMED AT:
___ ___  ___ 
___
Comment: Source: Stool

DISCHARGE LABS
===============
___ 07:00AM BLOOD WBC-6.7 RBC-3.18* Hgb-10.2* Hct-30.6* 
MCV-96 MCH-32.1* MCHC-33.3 RDW-14.2 RDWSD-48.4* Plt ___
___ 07:35AM BLOOD Glucose-114* UreaN-13 Creat-0.8 Na-144 
K-4.3 Cl-108 HCO3-25 AnGap-11
___ 07:35AM BLOOD ALT-17 AST-17 LD(LDH)-137 AlkPhos-28* 
TotBili-0.3
___ 07:35AM BLOOD Calcium-8.4 Phos-3.7 Mg-2.3

IMAGING
========
ESOPHAGUS AND STOMACH BIOPSIES (___)
PATHOLOGIC DIAGNOSIS:
1. Gastroesophageal junction, biopsy:
- Cardiac-type mucosa with chronic inflammation and intestinal 
metaplasia (see note).
- Squamous mucosa, no diagnostic abnormalities recognized.
Note: In light of patient's pan-gastritis with extensive 
intestinal metaplasia (part 2), this finding most
likely represent chronic carditis with intestinal metaplasia. 
Endoscopic correlation is suggested to
rule out concurrent ___ esophagus. No dysplasia 
identified.
2. Stomach, biopsy:
- Antral- and corpus-type mucosa with chronic active gastritis, 
intestinal metaplasia, and rare
Helicobacter (confirmed by immunostain).
- No dysplasia identified.
3. Stomach, ulcer, biopsy:
- Adenocarcinoma, moderately differentiated; arising in a 
background of chronic gastritis with
intestinal metaplasia (see note).
Note: Her2 immunostain appears negative (1+) in this limited 
sample. Dr. ___ was notified
of the preliminary results via email at 12:10PM on ___.

EGD (___)
--------------
- Irregular Z-line in the gastroesophageal junction.
- Erythema in the stomach compatible with gastritis.
- Ulcer in the gastric cardia along lesser curvature.
- Normal mucosa in the whole examined duodenum.

CT A/P W/ CON (___)
IMPRESSION: 
  
1. A nodular lesions is involving the lesser curvature of the 
stomach, with a small 5 mm lymph node noted in the gastrohepatic 
ligament. 
2. Liver lesions, too small to characterize but likely cysts.  
Attention on follow-up. 
3. Left nephrolithiasis. 
4. Please refer to separate report of CT chest performed on the 
same day for description of the thoracic findings. 

CT CHEST W/ CON (___)
IMPRESSION:  
  
2 tiny lung nodules, of indeterminate age and significance. 
  
Atherosclerotic coronary calcification, LAD. 

MICROBIOLOGY
==============
None

 
Brief Hospital Course:
SUMMARY
=========
___ year-old male is PMHx of hypertension, presenting to the ED 
with low blood pressure, dizziness, melena and found to have a 
guiaic positive stool admitted for workup of GI bleed. 

ACUTE ISSUES:
=============
#Melena
#Anemia
#Dizziness
Patient presented with 2 days of melena and dizziness with mild 
hypotension. Admission hemoglobin was 8.7. Denied NSAID or 
significant alcohol use. Patient received 1U pRBC and IVF with 
appropriate increase in his hemoglobin. Patient had an EGD which 
showed an irregular Z line (biopsied), a large 20 mm cratered 
clean base ulcer with no source of overt bleeding (biopsied), 
and diffuse mild gastritis (biopsied). He received PPI BID. H. 
pylori stool sample came back positive, so he was started on 
quadruple therapy. Preliminary results from the biopsy from his 
stomach showed adenocarcinoma. He underwent CT scans for 
staging. Preliminary results showed no metastases, but the final 
reads were still pending on discharge. Discharge hemoglobin was 
10.2. He was initiated on bismuth quadruple therapy for 
treatment of H. Pylori which should be continued on discharge to 
complete a 14 day course through ___.

#Thrombocyotopenia
Patient with PLT of 136 on admission labs. Most likely in the 
setting of GI Bleed. Less likely to be a destructive process 
given patient T. Bili of 0.4. The thrombocytopenia resolved by 
discharge. Discharge platelets 175.

CHRONIC/STABLE ISSUES:
======================
#Hypertension
Held home losartan in setting of low BPs and acute bleed. 
Continued to hold on discharge due to SBPs in 100s-110s.

TRANSITIONAL ISSUES:
====================
Discharge Hgb: 10.2
Discharge Platelets: 175

[ ] Adenocarcinoma - Please ensure patient undergoes his EUS 
scheduled for ___. He will follow up with oncology on ___.
[ ] Anemia - Would recheck CBC after 1 week. 
[ ] H. pylori - Please ensure patient has completed full 2 week 
course of quadruple therapy. Recommend rechecking for clearance 
of infection at the appropriate interval.
[ ] Hypertension - Please re-evaluate patient's blood pressure 
and restart losartan as appropriate.

# CODE: Full code (presumed)
# CONTACT: Wife 
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 25 mg PO DAILY 

 
Discharge Medications:
1.  Bismuth Subsalicylate 20 mL PO QID 
RX *bismuth subsalicylate 262 mg/15 mL 20 ml by mouth four times 
a day Disp #*1 Bottle Refills:*0 
2.  MetroNIDAZOLE 250 mg PO/NG QID 
RX *metronidazole 250 mg 1 tablet(s) by mouth four times a day 
Disp #*56 Tablet Refills:*0 
3.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*28 Tablet Refills:*0 
4.  Tetracycline 500 mg PO Q6H 
RX *tetracycline 500 mg 1 capsule(s) by mouth four times a day 
Disp #*56 Capsule Refills:*0 
5. HELD- Losartan Potassium 25 mg PO DAILY  This medication was 
held. Do not restart Losartan Potassium until your doctor tells 
you to.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Acute blood loss anemia 
H. pylori infection
Adenocarcinoma

SECONDARY DIAGNOSIS
=====================
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you here at ___ 
___. 

WHY WAS I IN THE HOSPITAL?  
- You came to the hospital after developing lightheadedness 
while having black stools.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were given red blood cells and fluids.
- You had an endoscopy which showed a large ulcer in your 
stomach. Samples were taken of your stomach. The preliminary 
results unfortunately showed adenocarcinoma, which is a type of 
cancer.
- You underwent CT scans of your whole body to see if the cancer 
had spread to other parts of your body. The preliminary results 
showed no spread, but we are still waiting on the final results 
to be absolutely sure.
- It was found that you had an infection in your stomach that we 
believe also caused the ulcer and the bleeding. You were treated 
for this infection (it is called H. pylori) and should continue 
this treatment when you leave the hospital.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- It is very important for you to take all of your medicines as 
prescribed to get rid of this infection. You should take the 
antibiotics until ___.
- Please keep all of your follow-up appointments.
- You will have an endoscopic ultrasound done on ___ and then 
will follow up with oncology on ___ to determine treatment 
for your cancer.
- Your oncologist will discuss the final results of the CAT scan 
with you.
- If you develop lightheadedness, worsening black stools, or 
bright red blood in your stool, please come back to the 
Emergency Room.

Be well,

Your ___ Care Team

 
Followup Instructions:
___